US07763731B2
2-Amino-6-methyl-nicotinonitrile
2-Chloro-6-methyl-nicotinonitrile (25 g, 0.164 mol) and liquid ammonia (250 mL) in 500 mL of ethanol were reacted in a sealed high-pressure vessel at 130° C. for 20 hours. The reaction mixture was concentrated under vacuum and the residue washed with water (2×50 mL) then dried in a vacuum oven for 24 hours to provide the title compound as a light yellow solid (18 g, 82%). 1H NMR (300 MHz, DMSO-d6) δ ppm: 2.30 (s, 3H), 6.52 (d, J=7.7 Hz, 1H), 6.78 (s, 2H), 7.73 (d, J=7.7 Hz, 1H).

reactant | 2-Chloro-6-methyl-nicotinonitrile | 0.164 mol, 25 g | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | ammonia | 250 mL | N | H3N
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-Amino-6-methyl-nicotinonitrile | 18 g, 82% | NC1=C(C#N)C=CC(=N1)C | C7H7N3
